US07534894B2
A mixture of tert-butyl (3′-bromo-4′-hydroxy[1,1′-biphenyl]-4-yl)methylcarbamate (1.50 g, 3.97 mmol), prepared in the previous step, methyl bromoacetate (376 μL, 3.97 mmol) and potassium carbonate (2.74 g, 19.86 mmol) in 50 mL of DMF was stirred under nitrogen at room temperature for 19 h (overnight). The reaction was partitioned between methylene chloride and water. The organic layer was separated, extracted five times with water, dried (MgSO4) and the solvent removed under reduced pressure to give methyl[(3-bromo-4′-{[(tert-butoxycarbonyl)amino]methyl}[1,1′-biphenyl]-4-yl)oxy]acetate (1.67 g, 93%) as a white solid, mp 96-98° C. Elemental Analysis for C21H24BrNO5. Calc'd: C, 56.01; H, 5.37; N, 3.11. Found: C, 55.47; H, 5.40; N, 3.00

reactant | tert-butyl (3′-bromo-4′-hydroxy[1,1′-biphenyl]-4-yl)methylcarbamate | 3.97 mmol, 1.50 g | BrC=1C=C(C=CC1O)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C18H20BrNO3
reactant | methyl bromoacetate | 3.97 mmol, 376 μL | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 19.86 mmol, 2.74 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl[(3-bromo-4′-{[(tert-butoxycarbonyl)amino]methyl}[1,1′-biphenyl]-4-yl)oxy]acetate | 1.67 g, 93% | COC(COC1=C(C=C(C=C1)C1=CC=C(C=C1)CNC(=O)OC(C)(C)C)Br)=O | C21H24BrNO5
